US06458783B1
A. 5-Bromoisatoic Anhydride
To a stirred solution of 5-bromo-2-amino-benzoic acid (25 g, 0.115 mmol) in a mixed solvent of THF:H2O:conc. HCl (4:2:1, 350 mL), was added a solution of phosgene (0.23 mmol, 20% in toluene) dropwise. The reaction mixture was allowed to stir at room temperature for 4 h. The resulting precipitate was filtered, washed with water and dried under reduced pressure to give the title compound (22.5 g, 78%) as a gray solid.

reactant | 5-bromo-2-amino-benzoic acid | 0.115 mmol, 25 g | BrC=1C=CC(=C(C(=O)O)C1)N | C7H6BrNO2
reactant | THF | C1CCOC1 | C4H8O
reactant | HCl | 350 mL | Cl | ClH
reactant | phosgene | 0.23 mmol | C(=O)(Cl)Cl | CCl2O
solvent | H2O | O | H2O
product | 5-Bromoisatoic Anhydride | 22.5 g, 78% | BrC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4BrNO3
